US07772268B2
1-(6,7-Dihydro-4H-thieno[3,2-c]pyridine-5-carbonyl)-6-fluoro-1H-indazol-3-yl 6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylate
In analogy to example 1, 200 mg (1.315 mmol) of 6-fluoro-1H-indazol-3-ol were reacted with 318 mg (1.578 mmol) of 6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carbonyl chloride. Yield: 18 mg (3%), M+H+: 483.25.

reactant | 6-fluoro-1H-indazol-3-ol | 1.315 mmol, 200 mg | FC1=CC=C2C(=NNC2=C1)O | C7H5FN2O
reactant | 6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carbonyl chloride | 1.578 mmol, 318 mg | S1C=CC=2CN(CCC21)C(=O)Cl | C8H8ClNOS
product | 1-(6,7-Dihydro-4H-thieno[3,2-c]pyridine-5-carbonyl)-6-fluoro-1H-indazol-3-yl 6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylate | S1C=CC=2CN(CCC21)C(=O)OC2=NN(C1=CC(=CC=C21)F)C(=O)N2CC1=C(CC2)SC=C1 | C23H19FN4O3S2
